US04877881
1-(4'-Hydroxy-3'-methoxyphenyl)-1-hexene-3,5-dione
Boric anhydride (16.32 g, 237.2 mmoles) and acetylacetone are stirred at room temperature under nitrogen for 12 hours. 4-Hydroxy-3-methoxybenzaldehyde (18.06 g, 118.8 mmoles) and tributyl borate (364 g, 3.16 moles) are combined with the acetyl acetone/boric anhydride complex in 100 ml of ethyl acetate. The reaction is stirred at room temperature for one hour, at which time n-butylamine (4.34 g, 59.4 mmoles) is added in 4 equal portions over 8 hours. The reaction is allowed to stir for 12 hours. 300 ml of water containing 20 ml of concentrated hydrochloric acid is added to the reaction and stirred for 2 hours. The solid which forms is removed by filtration through celite, and the layers of filtrate are separated. The ethyl acetate layer is washed with 2×100 ml of saturated sodium bicarbonate, followed by 100 ml of brine. Drying over magnesium sulfate followed by evaporation of the solvent gives a red solid. Chromatography in 5% ethyl acetate/chloroform gives 11.06 g (40%) of a yellow solid. mp=146°-147° C. Analysis for C13H14O4 requires C-66.65, H-6.04. Found C-66.88, H-6.18.

reactant | acetylacetone | C(C)(=O)CC(C)=O | C5H8O2
reactant | 4-Hydroxy-3-methoxybenzaldehyde | 118.8 mmoles, 18.06 g | OC1=C(C=C(C=O)C=C1)OC | C8H8O3
reactant | tributyl borate | 3.16 moles, 364 g | B(OCCCC)(OCCCC)OCCCC | C12H27BO3
reactant | n-butylamine | 59.4 mmoles, 4.34 g | C(CCC)N | C4H11N
reactant | hydrochloric acid | Cl | ClH
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate chloroform | C(C)(=O)OCC.C(Cl)(Cl)Cl
solvent | water | 300 ml | O | H2O
product | 1-(4'-Hydroxy-3'-methoxyphenyl)-1-hexene-3,5-dione | 11.06 g, 40% | OC1=C(C=C(C=C1)C=CC(CC(C)=O)=O)OC | C13H14O4
